US06251912B1
To a solution of N-(3-bromophenyl)-4,6-quinazolindiamine (315 mg, 1 mmol) and triethylamine (0.5 mL) in THF (50 mL) at 0° C. was dropwise added 2-chloroethylsulfonyl chloride (490 mg, 3 mmol). After the solution was stirred at 0° C. for 10 min, it was chromatographed on silica gel with 10% methanol in chloroform to give 212 mg of ethenesulfonic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide as an light yellow solid: HRMS (m/e): M+403.9937. Modified a method from A. A. Goldberg, J. Chem., Soc., 464 (1945).

reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1 mmol, 315 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethylsulfonyl chloride | 3 mmol, 490 mg | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethenesulfonic acid [4-(3-bromo-phenylamino)-quinazolin-6-yl]-amide | 212 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NS(=O)(=O)C=C | C16H13BrN4O2S
